US07781438B2
Preparation of (7-Chloro-2-dimethylaminomethyl-quinolin-8-yl)-acetic acid ethyl ester
Dimethylamine (5.6 M solution in EtOH, 0.27 ml, 1.54 mmol, 1.5 equiv) was added to a solution of (7-chloro-2-formyl-quinolin-8-yl)-acetic acid ethyl ester (285 mg, 1.03 mmol) in anhydrous THF (5 ml). The reaction mixture was stirred at room temperature for 18 hours. A solution of NaCNBH3 (77 mg, 1.23 mmol, 1.2 equiv) in methanol (2 ml) was added, immediately followed by the addition of acetic acid (308 mg, 5.13 mmol, 5.0 equiv). After 5 minutes at room temperature, TLC analysis indicated complete conversion. The reaction mixture was diluted with water, adjusted to pH=8 with concentrated aqueous NaHCO3 solution, and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (gradient of CH2Cl2/MeOH 99:1 to 90:10) to afford the title compound (245 mg, 78%) as a colorless solid. 1H NMR (400 MHz, d6-DMSO): δ=8.45 (d, J=8.1 Hz, 1H), 7.98 (d, J=8.4 Hz, 1H), 7.69 (d, J=8.4 Hz, 1H), 7.63 (d, J=8.1 Hz, 1H), 4.47 (s, 2H), 4.08 (q, J=7.3 Hz, 2H), 2.50 (s, 6H), 1.16 (t, J=7.3 Hz, 3H). MS (ES+): 307.3 (M+H)+.

reactant | Dimethylamine | 1.54 mmol, 5.6 M, 0.27 ml, 1.5 equiv | CNC | C2H7N
reactant | (7-chloro-2-formyl-quinolin-8-yl)-acetic acid ethyl ester | 1.03 mmol, 285 mg | C(C)OC(CC=1C(=CC=C2C=CC(=NC12)C=O)Cl)=O | C14H12ClNO3
reactant | NaCNBH3 | 1.23 mmol, 77 mg, 1.2 equiv | [BH3-]C#N.[Na+]
reactant | acetic acid | 5.13 mmol, 308 mg, 5.0 equiv | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
product | (7-Chloro-2-dimethylaminomethyl-quinolin-8-yl)-acetic acid ethyl ester | 245 mg, 78% | C(C)OC(CC=1C(=CC=C2C=CC(=NC12)CN(C)C)Cl)=O | C16H19ClN2O2
